US08207381B2
Synthesis of 6-Bromo-6,6-difluoro-2,2-dimethyl-hex-4-yn-3-ol
To a solution of (3-bromo-3,3-difluoro-prop-1-ynyl)-triisopropyl-silane (156 mg, 0.5 mmol) and 2,2-dimethyl-propionaldehyde (52 mg, 0.6 mmol) in THF (5 mL), TBAF (1M, 0.75 mL) was added dropwise at −90° C. After the addition was completed, the reaction mixture was stirred for 0.5 hour and quenched saturated aq. NH4Cl. The mixture was extracted with ether (20 mL×3) and washed with water (20 mL×2). After drying over Na2SO4 the solvent was removed and the product was purified by silica gel chromatography (AcOEt:hexane=1:20) to afford the title compound as a colorless liquid. 1H NMR (500 MHz, CDCl3) δ 4.08-4.09 (m, 1H), 1.83 (d, J=6.0 Hz, 1H), 0.965 (s, 9H).

reactant | (3-bromo-3,3-difluoro-prop-1-ynyl)-triisopropyl-silane | 0.5 mmol, 156 mg | BrC(C#C[Si](C(C)C)(C(C)C)C(C)C)(F)F | C12H21BrF2Si
reactant | 2,2-dimethyl-propionaldehyde | 0.6 mmol, 52 mg | CC(C=O)(C)C | C5H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | TBAF | 1M, 0.75 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 6-Bromo-6,6-difluoro-2,2-dimethyl-hex-4-yn-3-ol | BrC(C#CC(C(C)(C)C)O)(F)F | C8H11BrF2O
